US07687531B2
134 g (0.478 mol) of ethyl 3-iodo-1-methyl-1H-pyrazole-4-carboxylate were initially charged in 850 ml of ethanol, and a solution of 29.5 g (0.526 mol) of KOH in 340 ml of water was added dropwise. After 2 days of stirring at room temperature, the mixture was concentrated, the residue was taken up in water and extracted with ethyl acetate and, after separation, the aqueous phase was adjusted to pH 1 using hydrochloric acid, resulting in the precipitation of a solid. Filtration with suction and 3 hours of drying under reduced pressure at 40° C. gave 88 g (70% of theory) of 3-iodo-1-methyl-1H-pyrazole-4-carboxylic acid [logP (pH 2.3)=0.57]. The aqueous phase was extracted with ethyl acetate and the organic phase was concentrated, which gave another 5.1 g (2.1% of theory) of product.

reactant | ethyl 3-iodo-1-methyl-1H-pyrazole-4-carboxylate | 0.478 mol, 134 g | IC1=NN(C=C1C(=O)OCC)C | C7H9IN2O2
reactant | KOH | 0.526 mol, 29.5 g | [OH-].[K+]
solvent | ethanol | 850 ml | C(C)O | C2H6O
solvent | water | 340 ml | O | H2O
product | 3-iodo-1-methyl-1H-pyrazole-4-carboxylic acid | 88 g, pH 2.3, 70% | IC1=NN(C=C1C(=O)O)C | C5H5IN2O2
